US07297698B2
2-Methoxy-6-nitroquinoxaline
Into 10 ml of THF was dissolved 1.16 g of 2-chloro-6-nitroquinoxaline, and then 1.0 g of sodium methoxide was added thereto, followed by heating under refluxing for 30 minutes. Then, the solvent was removed by evaporation. Water was added to the residue, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline. After the solvent was removed by evaporation, the residue was crystallized from diethyl ether-hexane to obtain 776 mg of the title compound.

reactant | 2-chloro-6-nitroquinoxaline | 1.16 g | ClC1=NC2=CC=C(C=C2N=C1)[N+](=O)[O-] | C8H4ClN3O2
reactant | sodium methoxide | 1.0 g | C[O-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-Methoxy-6-nitroquinoxaline | 776 mg | COC1=NC2=CC=C(C=C2N=C1)[N+](=O)[O-] | C9H7N3O3
